### PR TITLE
Remove Restart and ltac:(...)

### LINKED ISSUE #61: Remove Restart from tutorials until VsCoq2 and CoqLSP support it
Remove Restart from tutorials until VsCoq2 and CoqLSP support it. 
I think it only concerns the tutorial about Equations

### PR DESCRIPTION
**Pull request by thomas-lamiaux**
Fix #61 and #62

### CODE REVIEW

File: src/Tutorial_Equations_wf.v [hunk 1]
```diff
@@ -496,23 +498,30 @@ Context (h : exists m : nat, f m = true).
...
 Lemma wf_R_lt_m m (h : f m = true) : forall n, n < m -> Acc R n.
 Proof.
-  intros n H. assert (Acc R m) by (eapply wf_R_m_le; eauto).
-  rewrite <- (Nat.sub_add n m ltac:(lia)) in *.
+  intros n H.
+  (* Prove Acc m *)
+  assert (Acc R m) as Hm_acc by (eapply wf_R_m_le; eauto).
+  (* Set up induction on k := m - n *)
+  assert (m - n + n = m) as Hmn by (apply Nat.sub_add; lia).
+  rewrite <- Hmn in *; clear Hmn.
```
Comment (SkySkimmer) [inline src/Tutorial_Equations_wf.v:522]: does this not work?
```suggestion
  rewrite <- (Nat.sub_add n m) in * by lia.
```
